US08981084B2
1-(5-Bromothiophen-2-yl)-2,2,2-trifluoroethanol (2 g, 7.66 mmol) was dissolved in dry CH2Cl2 (20 mL) and argon gas was purged for 10 min. Dess-Martin periodinane (3.56 g, 8.4 mmol) was added to the reaction mixture at 0° C. The reaction mixture was allowed to warm up to room temperature and further stirred for 3 h. The reaction mixture was then quenched with saturated NaHCO3 solution and the organic product was extracted with EtOAc. Solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 10% EtOAc in petroleum ether) to afford 1-(5-bromothiophen-2-yl)-2,2,2-trifluoroethanone (0.8 g, yield 42%). 1H NMR (400 MHz, CDCl3) δ 7.72-7.71 (m, 1H), 7.24-7.23 (d, J=4.3 Hz, 1H).

reactant | 1-(5-Bromothiophen-2-yl)-2,2,2-trifluoroethanol | 7.66 mmol, 2 g | BrC1=CC=C(S1)C(C(F)(F)F)O | C6H4BrF3OS
reactant | Dess-Martin periodinane | 8.4 mmol, 3.56 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-bromothiophen-2-yl)-2,2,2-trifluoroethanone | 0.8 g, yield 42% | BrC1=CC=C(S1)C(C(F)(F)F)=O | C6H2BrF3OS
